US04562186
[3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile
A mixture of 38 g of 4-chlorophenylglyoxylohydroxamyl chloride and 112 g of malononitrile in one liter of toluene was refluxed for 48 hours under N2. The cooled mixture was filtered and concentrated in vacuo. The residue was taken up in Et2O, washed with water (8×) and brine, and dried over MgSO4. Concentration gave an oil which was purified by high pressure liquid chromatography using 5% hexane/CH2Cl2 as an eluent to give 12 g (28%) of an oil which solidified on standing, m.p. 81°-84°.

reactant | 4-chlorophenylglyoxylohydroxamyl chloride | 38 g | C1=CC(=CC=C1C(=O)/C(=N/O)/Cl)Cl | C8H5Cl2NO2
reactant | malononitrile | 112 g | C(CC#N)#N | C3H2N2
solvent | toluene | one liter | C1(=CC=CC=C1)C | C7H8
product | [3-(4-Chlorobenzoyl)-1,2,4-oxadiazol-5-yl]acetonitrile | 12 g, 28% | ClC1=CC=C(C(=O)C2=NOC(=N2)CC#N)C=C1 | C11H6ClN3O2
